US09023858B2
G) 2-(ethylsulfanyl)-4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydropyrido[2,3-d]pyrimidine-7-carboxamide
To a mixture of 2-(ethylsulfanyl)-4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydropyrido[2,3-d]pyrimidine-7-carbaldehyde (299 mg), 2-methylbut-2-ene (387 mg), potassium dihydrogen phosphate (88 mg) and 2-methyl-2-propanol/water (4/1, 70 ml) was added sodium chlorite (232 mg) by small portions, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture were added 1M hydrochloric acid and water under ice-cooling, and the mixture was extracted with tetrahydrofuran. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a pale-yellow residue. The residue (117 mg) and 1-hydroxybenzotriazole ammonium (40 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (56 mg) was added thereto, and the mixture was stirred at room temperature for 16 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) and then (NH, ethyl acetate/hexane), and recrystallized from a mixed solvent of ethyl acetate/hexane to give the white title compound (28 mg).

reactant | 2-(ethylsulfanyl)-4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydropyrido[2,3-d]pyrimidine-7-carbaldehyde | 299 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)C=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H14F3N3O3S
reactant | 2-methylbut-2-ene | 387 mg | CC(C)=CC | C5H10
reactant | potassium dihydrogen phosphate | 88 mg | P(=O)(O)(O)[O-].[K+]
reactant | sodium chlorite | 232 mg | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | 1-hydroxybenzotriazole ammonium | 40 mg | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 56 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | 2-methyl-2-propanol water | 70 ml | CC(C)(C)O.O
product | 2-(ethylsulfanyl)-4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydropyrido[2,3-d]pyrimidine-7-carboxamide | 28 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)C(=O)N)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H15F3N4O3S
